US07361663B2
F. 3-(2-Pyrrolidin-2-(R,S)-ylethyl)-benzonitrile
A flask containing 3-[2-(4,5-Dihydro-3H-pyrrol-2-yl)-ethyl]benzonitrile (0.22 g, 1.11 mmol) and absolute EtOH (10 mL) was stirred under nitrogen at 0° C. To this was added NaBH4 (0.063 g, 1.66 mmol) in one portion and the reaction is warmed to room temperature and stirred 1 h. The reaction is concentrated and the residue diluted with H20 (15 mL). 1 N HCl (15 mL) is added and the solution is washed with ether. The aqueous phase is basified with solid sodium carbonate and extracted with EtOAc (3×25 mL). The combined organic extracts are dried over MgSO4 and concentrated to give the title compound as a yellow oil (0.10 g, 0.50 mmol). 1H NMR (CDCl3, 300 MHz) 7.55-7.30(m, 4H), 4.01, 3.82(two m, 1H), 3.66-3.22(m, 2H), 3.05-2.55(m, 2H), 2.33-1.60(m, 6H).

reactant | 3-[2-(4,5-Dihydro-3H-pyrrol-2-yl)-ethyl]benzonitrile | 1.11 mmol, 0.22 g | N1=C(CCC1)CCC=1C=C(C#N)C=CC1 | C13H14N2
reactant | NaBH4 | 1.66 mmol, 0.063 g | [BH4-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-(2-Pyrrolidin-2-(R,S)-ylethyl)-benzonitrile | 0.50 mmol, 0.10 g | N1C(CCC1)CCC=1C=C(C#N)C=CC1 | C13H16N2
